US05356918
(5R)-N-(2-Nitrooxyethyl)-2-oxooxazolidine-5-carboxamide (Compound No. 2-34)
Following a procedure similar to that described in Example 1, but using 0.32 g of (5R)-2-oxooxazolidine-5-carboxylic acid, 0.50 g of N-(2-nitrooxyethyl)amine nitrate and 0.63 ml of diphenylphosphoryl azide, 0.11 g of the title compound was obtained as pale yellow plates, melting at 103°-105° C.

reactant | (5R)-2-oxooxazolidine-5-carboxylic acid | 0.32 g | O=C1O[C@H](CN1)C(=O)O | C4H5NO4
reactant | N-(2-nitrooxyethyl)amine nitrate | 0.50 g | [N+](=O)(O)[O-].[N+](=O)([O-])OCCN
reactant | diphenylphosphoryl azide | 0.63 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
product | (5R)-N-(2-Nitrooxyethyl)-2-oxooxazolidine-5-carboxamide | 0.11 g | [N+](=O)([O-])OCCNC(=O)[C@H]1CNC(O1)=O | C6H9N3O6
